US04567000
Diethylphosphinyl-difluoromethyllithium
A 5° solution of lithium diisopropylamide in THF (7.7 mmol, 17 ml) is added slowly (10 min) to a solution of diethyl difluoromethylphosphonate (8 mmol, 1.5 g) in THF (20 ml) with dry ice/acetone cooling. The mixture is stirred for 5 min before steroid addition.

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diethyl difluoromethylphosphonate | 8 mmol, 1.5 g | FC(F)P(OCC)(OCC)=O | C5H11F2O3P
reactant | dry ice acetone | C(=O)=O.CC(=O)C
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 7.7 mmol, 17 ml | C1CCOC1 | C4H8O
product | Diethylphosphinyl-difluoromethyllithium | C(C)P(=O)(CC)C(F)(F)[Li] | InChI=1S/C5H10F2OP.Li/c1-3-9(8,4-2)5(6)7;/h3-4H2,1-2H3;
